US04782057
After a mixture of 7-trifluoromethyl-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetic acid and phenylhydrazine in ethanol is refluxed under heating for 10 hours, the ethanol is distilled off. To the residue is added acetic acid and the mixture is refluxed under heating for 7 hours. After the acetic acid is distilled off, the residue is extracted with chloroform and the extract is washed with water and dried over magnesium sulfate anhydride. The chloroform is distilled off to give 2-phenyl-9-trifluoromethyl-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one.

reactant | 7-trifluoromethyl-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetic acid | FC(C1=CC=C2CCC(C(C2=C1)=O)CC(=O)O)(F)F | C13H11F3O3
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | C(C)O | C2H6O
product | 2-phenyl-9-trifluoromethyl-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | C1(=CC=CC=C1)N1N=C2C3=C(CCC2CC1=O)C=CC(=C3)C(F)(F)F | C19H15F3N2O
